US07396667B2
Depolymerization of poly(L-lactic acid-ε-caprolactone) Copolymer [P(LLA-CL)]
There were weighed 30 mg of P(LLA-CL) (Mn=50,000; mole ratio of L-LA to CL: 6/4), 30 mg of Novozym 435, 1 ml of toluene, and water, the amount thereof being 10% by mass of P(LLA-CL), and then they were put into a small pressure-resistant test tube with a screw cap, in which a magnetic stirrer was put. The tube was purged with argon, and then the solution was stirred at 70° C. for a day. Next, thereto was added a small amount of chloroform, and then the immobilized lipase which was insoluble was filtrated off. An evaporator was used to concentrate the solvent from the filtrate under reduced pressure, so as to yield an oligomer mixture including, as main components, cyclic oligomers, wherein the polymerization degree thereof was 4 to 10, at a conversion ratio of about 100%. The composition ratio between L-LA and CL in the oligomers was distributed substantially in accordance with the composition ratio therebetween in the charged polymer. FIG. 8 shows the MALDI-TOF MS (Na30 adduct) of the depolymerization product. In FIG. 8, LA represents lactic units in the oligomers, and CL represents caprolactone units in the oligomers. The number at the side of LA or CL represents the number of the units thereof.

reactant | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
reactant | caprolactone | C1(CCCCCO1)=O | C6H10O2
reactant | water | O | H2O
product | L-lactic acid ε-caprolactone | C([C@@H](O)C)(=O)O.C1(CCCCCO1)=O | InChI=1S/C6H10O2.C3H6O3/c7-6-4-2-1-3-5-8-6;1-2(4)3(5)6/h1-5H2;2,4H,1H3,(H,5,6)/t;2-/m.0/s1
